US09303007B2
A solution of sodium carbonate (2.55 g, 24.09 mmol) in water (20 mL) was added to a solution of 1-(5-bromonaphthalen-1-yl)ethanone (1.2 g, 4.8 mmol) and 4-acetylphenylboronic acid (1.03 g, 6.26 mmol) in toluene (20 mL) and ethanol (20 mL) and then heterogeneous solution was vigorously stirred with bubbling nitrogen for 15 min. Then Pd(PPh3)4 (0.111 g, 0.096 mmol) was added and the reaction vessel was sealed and heated at reflux for 6 h. The reaction was cooled and concentrated to dryness. The crude residue was taken into EtOAc (˜150 mL) and water (˜100 mL). The layers were separated and the organic layer was washed with brine, dried (MgSO4), filtered and concentrated to an orange solid. The orange solid was purified on a BIOTAGE® Horizon (40 g SiO2, DCM) to yield 1-(4-(5-acetylnaphthalen-1-yl)phenyl)ethanone (1.31 g) as an off-white solid. LC-MS retention time 3.736 min; m/z 289.19 (MH+). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a PHENOMENEX® Luna 3u C18 2.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 0.8 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 4 min, a hold time of 1 min, and an analysis time of 5 min where Solvent A was 10% MeOH/90% H2O/0.1% trifluoroacetic acid and Solvent B was 10% H2O/90% MeOH/0.1% trifluoroacetic acid. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. 1H NMR (400 MHz, chloroform-d) δ ppm 8.75 (d, J=8.8 Hz, 1H), 8.11 (d, J=8.5 Hz, 2H), 7.99 (d, J=8.5 Hz, 1H), 7.94 (dd, J=7.2, 1.1 Hz, 1H), 7.67 (dd, J=8.5, 7.0 Hz, 1H), 7.58 (d, J=8.3 Hz, 2H), 7.45-7.51 (m, 2H), 2.79 (s, 3H), 2.70 (s, 3H).

reactant | sodium carbonate | 24.09 mmol, 2.55 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-(5-bromonaphthalen-1-yl)ethanone | 4.8 mmol, 1.2 g | BrC1=C2C=CC=C(C2=CC=C1)C(C)=O | C12H9BrO
reactant | 4-acetylphenylboronic acid | 6.26 mmol, 1.03 g | C(C)(=O)C1=CC=C(C=C1)B(O)O | C8H9BO3
solvent | water | 20 mL | O | H2O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Pd(PPh3)4 | 0.096 mmol, 0.111 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(4-(5-acetylnaphthalen-1-yl)phenyl)ethanone | 1.31 g | C(C)(=O)C1=C2C=CC=C(C2=CC=C1)C1=CC=C(C=C1)C(C)=O | C20H16O2
